US03947593
A total of 2.3 g (0.06 mole) of sodium borohydride is added in small portions to a stirred solution of 9.7 g (0.02 mole) of 2,7-bis(2-diethylaminoethoxy)fluoren-9-one dihydrochloride in 200 ml or methanol, maintaining the mixture at 0°C throughout the addition. The mixture is allowed to warm to room temperature and the solvent removed in vacuo. The residue is taken up in 10% hydrochloric acid, the mixture extracted with ether, and the aqueous acidic solution evaporated in vacuo. The residue is dissolved in methanol, cooled at -20°C, and the inorganic material which precipitates removed by filtration. The filtrate is evaporated in vacuo, the residue dissolved in water and made basic with 10% aqueous sodium hydroxide. The liberated free base is extracted into ether, the ether extract washed with water and dried over anhydrous magnesium sulfate. The mixture is filtered, the filtrate evaporated, the residue taken up in isopropyl alcohol and acidified to Congo Red with ethereal hydrogen chloride. The precipitated product is collected and recrystallized three times from a mixture of isopropyl alcohol and methanol to give 2,7-bis(2-diethylaminoethoxy)fluoren-9-ol dihydrochloride. M.P. 192°-194°C.

reactant | sodium borohydride | 0.06 mole, 2.3 g | [BH4-].[Na+]
reactant | 2,7-bis(2-diethylaminoethoxy)fluoren-9-one dihydrochloride | 0.02 mole, 9.7 g | Cl.Cl.C(C)N(CCOC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCN(CC)CC)=O)CC
solvent | methanol | CO | CH4O
product | 2,7-bis(2-diethylaminoethoxy)fluoren-9-ol dihydrochloride | Cl.Cl.C(C)N(CCOC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCN(CC)CC)O)CC | InChI=1S/C25H36N2O3.2ClH/c1-5-26(6-2)13-15-29-19-9-11-21-22-12-10-20(30-16-14-27(7-3)8-4)18-24(22)25(28)23(21)17-19;;/h9-12,17-18,25,28H,5-8,13-16H2,1-4H3;2*1H
